Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
In brief, Ms. ___ is a ___ w/ a PMH significant for dCHF 
(severe LAE, EF 55%, pHTN), Atrial fibrillatin (on coumadin) 
with sick sinus syndrome s/p dual chamber PPM who presents with 
altered mental status from Acute Rehab facility. 

Per report, the patient was at baseline one day prior to 
admission. On the morning of admission, was alert to only 
person, very repetitive with speech, and not appropriately 
answering questions. Fingerstick was 133.  Nightfloat spoke with 
her daughter who said that Ms. ___ was recently discharged 2 
weeks prior from ___ for acute appendicitis then was doing 
well at ___ rehab facility. Patient previously 
lived at home and was fully functional w/ ADLs. Two days prior 
to admission, patient called daughter and said she was feeling 
cold w/ chills. Of note, she has been constipated x3 days but 
was given a bowel reg, then had BM. Daughter thinks mental 
status is "way off" especially since couldn't say her name, 
address, or date of birth. Patient perseverating saying "I want 
to go home." Daughter has not noticed waxing/waning mental 
status. Patient does not have history of confusion per daughter. 
No fevers, pain, falls or new meds. INR 1.3 on ___ at Rehab, 
coumadin increased from 3mg to 5mg on ___.
  
In the ED, initial vitals were 98.0 HR 70 145/60 22 sat 99% RA. 
Her exam was significant for A&Ox1 requiring frequent 
redirection with non-focal neuro exam. WBC 4, HCT 34, Cr 0.9, UA 
neg, CXR with small bilateral pleural effusions, vascular 
congestion. CT Abd/Pelvis without evidenc of abscess, but 
notable for bilateral effusions, hyperdense renal pole lesion 
concerning for malignant process. NCHCT without signs of acute 
bleed.

On arrival to floor, patient denied any pain, but could not 
contribute to history. 

ROS: Full 10 pt review of systems negative except for above. 
 
Past Medical History:
- CHF w/ preserved EF (severe diastolic dysfunction)
- Atrial Fibrillation on warfarin  
- ___ pacemaker, Sensia SEDR01 in ___ and 
change
in ___ for SSS
- Pulmonary Hypertension
- Moderate (2+) MR.
- Moderate (2+) TR.
- Hypertension  
- Hyperlipidemia  
- CKD
- Osteoporosis  
- Hx Adrenal Enlargement  
- Hx Thyroid nodule  
- s/p ruptured appendicitis
- s/p Pacemaker  
- s/p Cholecystectomy  
- s/p TAH  
- s/p C-section  
 
Social History:
___
Family History:
Unable to assess
 
Physical Exam:
=================================
Admission Physical Exam:
=================================
VS: 97.9 75 152/74 20 99% RA
Gen: NAD, A&Ox1 (name, not oriented to place or year, says its 
___
Wt: 84kg
HEENT: clear OP
NECK: JVP ___  
CV: RRR, nl s1/s2, no m/r/g
Pulm: decreased breath sounds at the bases bilaterally with 
overlaying inspiratory crackles. non-labored
Abd: soft, NT, ND  
GU: no foley  
Ext: 1+ edema to shins bilaterally  
Skin: no lesions noted  
Neuro: CNs intact, follows commands, appears to have difficulty 
remembering information about herself. ___ for immediate recall. 
___ strength in upper & lower ext. Downgoing toes. Romberg 
negative. No pronator drift. No disdiadochokinesis. Minimal 
past-pointing with FTN.
Psych: somewhat agitated w/ questioning, perseverating, poor 
insight

=================================
Discharge Physical Exam:
=================================
VS: 98.3 69 126/51 18 98%
Wt: 85.6
NAD, A&Ox1(knows name)  
HEENT: clear OP
NECK: JVP ___  
CV: RRR, nl s1/s2, no m/r/g
Pulm: decreased breath sounds at the bases bilaterally with mild 
inspiratory crackles. non-labored
Abd: soft, NT, ND  
GU: no foley  
Ext: 1+ edema to shins bilaterally  
Neuro: CNs intact, follows commands, appears to have difficulty 
remembering information about herself. ___ for immediate recall. 
___ strength in upper & lower ext. Downgoing toes. Romberg 
negative. No pronator drift. No disdiadochokinesis. Minimal 
past-pointing with FTN.
Psych: somewhat agitated w/ questioning, perseverating, poor 
insight
 
Pertinent Results:
===================
Admission Labs
===================
___ 01:30PM BLOOD WBC-4.0 RBC-3.63* Hgb-11.5* Hct-34.7* 
MCV-96 MCH-31.8 MCHC-33.2 RDW-12.7 Plt ___
___ 01:30PM BLOOD Neuts-65.4 ___ Monos-10.2 Eos-0.5 
Baso-1.0
___ 01:30PM BLOOD Plt ___
___ 07:05AM BLOOD ___ PTT-29.8 ___
___ 01:30PM BLOOD Glucose-111* UreaN-10 Creat-0.9 Na-135 
K-3.7 Cl-99 HCO3-25 AnGap-15
___ 01:30PM BLOOD ALT-28 AST-65* CK(CPK)-74 AlkPhos-93 
TotBili-0.7
___ 01:30PM BLOOD Albumin-3.6

Cardiac Labs
==================
___ 01:30PM BLOOD CK-MB-2 cTropnT-<0.01

Endo Labs
==================
___ 07:05AM BLOOD TSH-0.53

Urine
==================
___ 02:00PM URINE Color-Straw Appear-Clear Sp ___
___ 02:00PM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 02:00PM URINE RBC-<1 WBC-1 Bacteri-FEW Yeast-NONE Epi-1
___ 02:00PM URINE Mucous-RARE

Discharge Labs
==================
___ 09:45AM BLOOD WBC-3.1* RBC-3.46* Hgb-10.5* Hct-32.7* 
MCV-95 MCH-30.5 MCHC-32.2 RDW-13.3 Plt ___
___ 10:20AM BLOOD ___ PTT-35.5 ___
___ 09:45AM BLOOD Glucose-204* UreaN-14 Creat-1.0 Na-130* 
K-4.2 Cl-99 HCO3-25 AnGap-10

EKG
=============
EKG ___: AV paced, ventricular rate of 72

PRIOR IMAGING:
==================
# TTE ___: 
IMPRESSION: EF 55+% Normal global and regional biventricular 
systolic function. Severe left ventricular diastolic 
dysfunction. Moderate mitral regurgitation. Severe pulmonary 
artery systolic hypertension with evidence of RV volume/pressure 
overload.  

NEW IMAGING:  
===================
# CXR PA/Lat ___: 
IMPRESSION: Small bilateral pleural effusions and enlarged 
cardiac silhouette. Pulmonary vascular congestion.  

# CT abd/pelv w/ contrast ___: 
IMPRESSION: 
1.  No acute intra-abdominal process, specifically, no acute 
appendicitis.   
2.  New bilateral small pleural effusions with overlying 
atelectasis and a small pericardial effusion.   
3.  Unchanged hyperdense right lower pole renal lesion which is 
again 
concerning for malignancy.  A multiphasic CT or MRI is again 
recommended.   
4.  Unchanged large right adnexal cyst. 

# CT Head w/o contrast ___: 
FINDINGS:  There is no evidence of acute intracranial 
hemorrhage, midline 
shift, mass effect, or acute large vascular territorial infarct. 
 Gray-white matter differentiation is preserved.  There is 
prominence of the ventricles and sulci consistent with 
age-related global parenchymal loss.  Periventricular and 
subcortical white matter hypodensities bilaterally are most 
consistent with sequela of chronic small vessel disease, and may 
be minimally increased as compared to the prior study.  Minimal 
mucosal thickening is seen in the ethmoid air cells and in the 
left frontal sinus.  The remainder of the visualized paranasal 
sinuses and the mastoid air cells are clear.  No acute fracture 
is seen. 

IMPRESSION:  No acute intracranial process.  Chronic changes, as 
above.
 
Brief Hospital Course:
___ w/ a PMH significant for ___ (severe LAE, EF 55%, pHTN), 
Atrial fibrillatin (on coumadin) with sick sinus syndrome s/p 
dual chamber PPM who presents with altered mental status from 
metabolic encephalopathy from Acute Rehab facility. Her hospital 
course was significant for a negative infectious work-up and 
mild CHF exacerbation. 

# Metabolic Encephalopathy: 
Last seen normal on ___. Unclear what triggered AMS 
etiology. NCHCT without signs of acute bleed. CT Abd/Pelvis 
without signs of abcess as patient is recently s/p ruptured 
appendicitis. CXR with small bilateral pleural effusions. 
Infectious work-up for AMS was negative. She was persistently 
A&Ox1-2 (does not know location or date), but her attention was 
good, able to count days and months backward. She was discharged 
at what appears to be her baseline, which may be early dementia. 


# Atrial Fibrillation on warfarin: 
CHADS2 score of 3 (CHF, HTN, Age). On coumadin as outpatient. 
Subtherapeutic INR for at least 10 days prior to admission. INR 
1.3 on ___ at Rehab.  Warfarin was increased to 6. She was 
continued on her home dose of Metoprolol. 

# HFPEF: 
Mr. ___ appeared slightly volume overloaded on exam and had 
imaging significant for bilateral pleural effusions with a small 
pericardial effusion on CT. Last echo on ___ showed EF 55+%. 
Her admission wt is 84kg. She received Lasix 40mg IV x2 with 
good diuresis. She appeared more euvolemic on the day of 
discharge although her weight was 85.6 kg (unclear if accurate). 
She was discharged on her home dose of metoprolol and torsemide. 


# RUE superficial thrombophlebitis
Arrived from ___ with slight warm, erythematous, tender indurated 
RUE IV site. Site was dramatically improved in 24 hours with 
warm compress. 
 
# Hypertension  
Continued on home Metoprolol and Lisinopril
 
# Hyperlipidemia  
Continued on home Atorvastatin

# Sick sinus syndrome with pacemaker
AV paced on admission w/ baseline EKG.  

# Leukopenia
WBC 3.1 on day of discharge. Patient without signs or symptoms 
of infection. Would monitor as an outpatient. 

# Normocytic Anemia
Hg ___. At baseline. 

# Hyponatremia
Na stable during admission, but 130 on day of discharge. Likely 
due to diuresis. Would follow-up as outpatient. 

# AST elevation
Seems chronic. Would monitor as an outpatient. 

Transitional Issues
===============================
# Needs f/u with surgery for evaluation s/p ruptured appy
# Needs f/u with Cardiology for CHF: FYI, patient had small 
pericardial effusion on CT
# Needs follow up with PCP: ___ monitor weight, WBC, anemia, 
AST elevation, and right lower pole renal lesion (found on CT. 
would recommend multiphasic CT or MRI). 
# Needs blood draw on ___ for CBC, INR. Please titrate 
Coumadin to INR ___. Please continue to monitor WBC count as 
patient was discharged with WBC 3.1. 
# CONTACT: ___ (daughter) ___  
# CODE: Full- confirmed  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Atorvastatin 10 mg PO DAILY 
3. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
4. Amiodarone 200 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Senna 1 TAB PO BID 
7. Omeprazole 20 mg PO BID 
8. Metoprolol Tartrate 25 mg PO QAM 
9. Metoprolol Tartrate 50 mg PO QPM 
10. Torsemide 10 mg PO DAILY 
11. Lidocaine 5% Patch 1 PTCH TD DAILY 
12. Lidocaine 5% Patch 1 PTCH TD DAILY 
13. Calcium Carbonate 1000 mg PO BID 
14. Polyethylene Glycol 17 g PO DAILY 
15. Lisinopril 20 mg PO DAILY 
16. Warfarin 4 mg PO DAILY16 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amiodarone 200 mg PO DAILY 
3. Atorvastatin 10 mg PO DAILY 
4. Calcium Carbonate 1000 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Lidocaine 5% Patch 1 PTCH TD DAILY 
7. Lidocaine 5% Patch 1 PTCH TD DAILY 
8. Lisinopril 20 mg PO DAILY 
9. Metoprolol Tartrate 25 mg PO QAM 
10. Metoprolol Tartrate 50 mg PO QPM 
11. Omeprazole 20 mg PO BID 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 1 TAB PO BID 
14. Torsemide 10 mg PO DAILY 
15. Warfarin 6 mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Altered Mental Status
- ___
- Atrial Fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, 

It was a pleasure taking care of you at ___. You were admitted 
for confusion. You had a cat scan of your head and your abdomen, 
which did not show any signs of infection or stroke. Overall, we 
did not find any reason for your confusion.

You had a chest x-ray that showed a small amount of fluid in 
your lungs. You were treated with a stronger dose of diuretic 
(intravenous lasix), and you were discharged on your home dose 
of torsemide. 

For your of Afib, You were treated with Coumadin and were 
discharged on a dose of 6mg. 

Please weigh yourself every morning, call MD if weight goes up 
more than 3 lbs.
 
Followup Instructions:
___